US04966904
0.65 g of 4-(6-fluoro-3,4-dimethoxyphenyl)-4,5,6,7-tetrahydrothieno[2,3-c]pyridine was dissolved in 14 ml of dichloromethane; and to the mixture was added 1M boron tribromide-dichloromethane solution (12 ml) dropwise under an argon gas stream, while cooling at -30°--60° C. (internal temperature) while stirring. The mixture was stirred for 2 hours at room temperature, and 20 ml of methanol was added dropwise thereto under ice cooling. The solvent was distilled off, and the residue obtained was crystallized by using a mixture of methanol and chloroform (1:8). The crystals were collected by filtration, and recrystallized from ethanol, giving 0.29 g of 4-(6-fluoro-3,4-dihydroxyphenyl)-4,5,6,7-tetrahydrothieno[2,3-c]pyridine hydrobromide.

reactant | 4-(6-fluoro-3,4-dimethoxyphenyl)-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | 0.65 g | FC1=CC(=C(C=C1C1C2=C(CNC1)SC=C2)OC)OC | C15H16FNO2S
reactant | boron tribromide dichloromethane | 1M, 12 ml | B(Br)(Br)Br.ClCCl
reactant | methanol | 20 ml | CO | CH4O
solvent | dichloromethane | 14 ml | ClCCl | CH2Cl2
product | 4-(6-fluoro-3,4-dihydroxyphenyl)-4,5,6,7-tetrahydrothieno[2,3-c]pyridine hydrobromide | 0.29 g | Br.FC1=CC(=C(C=C1C1C2=C(CNC1)SC=C2)O)O | InChI=1S/C13H12FNO2S.BrH/c14-10-4-12(17)11(16)3-8(10)9-5-15-6-13-7(9)1-2-18-13;/h1-4,9,15-17H,5-6H2;1H
